US09065061B2
Step 1: Synthesis of N,N′-dibenzoylhydrazine
First, 6.6 g of benzoylhydrazine and 50 mL of N-methyl-2-pyrrolidone (NMP) were put in a 200 mL three-neck flask, and mixed. Then, a mixed solution of 5 mL of benzoyl chloride and 10 mL of NMP was dripped to the above mixed solution through a 50 mL dropping funnel, and stirred at room temperature for 1 hour to be reacted. The reacted mixed solution was added to 250 mL of water, and a white solid was precipitated. The precipitated solid was washed with 1M hydrochloric acid and subjected to suction filtration to give a white solid. The given solid was washed with methanol, so that N,N′-dibenzoylhydrazine was prepared (a white solid, yield: 65%). The synthetic scheme of Step 1 is shown by (a-6).

reactant | benzoylhydrazine | 6.6 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | N-methyl-2-pyrrolidone | 50 mL | CN1C(CCC1)=O | C5H9NO
reactant | benzoyl chloride | 5 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NMP | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 250 mL | O | H2O
product | N,N′-dibenzoylhydrazine | yield: 65% | C(C1=CC=CC=C1)(=O)NNC(C1=CC=CC=C1)=O | C14H12N2O2
